US04207320
3-Fluoroimidazo[1,2-a: 3,4-a']diquinolin-15-ium Iodide
A mixture of 294 g. of 6-fluoroquinoline, 74.6 g. of quinaldine, 1.7 l. of chlorobenzene and 254 g. of iodine is stirred for 2 hours at 20°-25° C., then stirred and heated at 100° C. for 4 days. About 1 l. of solvent is removed by evaporation at reduced pressure and the residue is cooled to 0°-5° C. The precipitate is collected, washed with cold chlorobenzene, dried and pulverized. The finely divided solid is suspended with stirring and cooling in 500 ml. of methanol and 55 ml. of hydrazine is added to destroy excess iodine. The resulting solid 3-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with cold methanol and dried; m.p. 310°-316° C.

reactant | 6-fluoroquinoline | FC=1C=C2C=CC=NC2=CC1 | C9H6FN
reactant | quinaldine | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | iodine | II | I2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Fluoroimidazo[1,2-a: 3,4-a']diquinolin-15-ium Iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC=CC3C=C1 | InChI=1S/C19H12FN2.HI/c20-15-7-9-17-14(11-15)6-10-19-21(17)12-16-8-5-13-3-1-2-4-18(13)22(16)19;/h1-12H;1H/q+1;/p-1
